US05183820
6-Fluoro-2,3,4,5-tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-5-(methylsulphonyl)-1H-pyrido[4,3-b]indol-1-one maleate
A stirred solution of 6-fluoro-2,3,4,5-tetrahydro-2-[[5-methyl-1-(triphenylmethyl) -1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one (64 mg) in dry DMF (10 ml) was treated with sodium hydride (73% dispersion in oil; 6 mg), and stirred under nitrogen for 30 min. Methanesulphonyl chloride (10% v/v solution in DMF; 1 ml) was added dropwise and the mixture was stirred for a further 45 min at room temperature. Additional sodium hydride (6 mg) and methanesulphonyl chloride solution (2 ml) were then added, and stirring was continued for 2 h. The mixture was then added to water (75 ml) and extracted with ethyl acetate (3×50 ml). The combined organic extracts were washed with water (2×50 ml) and brine (2×50 ml), dried and concentrated in vacuo to give a gum. This was dissolved in water (5 ml), glacial acetic acid (5 ml) and THF (5 ml), and heated to reflux for 2 h. The reaction mixture was then added to 2N sodium hydroxide (50 ml) and extracted with ethyl acetate (2×50 ml). The combined, dried organic extracts were adsorbed onto silica and purified by FCC eluting with System A (100:8:1) to give the free base of the title compound (24 mg). This was triturated with ether, and then dissolved in hot methanol (2 ml). Maleic acid (7.4 mg) was added, and the resulting solution was heated and then concentrated in vacuo to give an oil. This was triturated with ether to give the title compound (20 mg), m.p. 205°-208°.

reactant | 6-fluoro-2,3,4,5-tetrahydro-2-[[5-methyl-1-(triphenylmethyl) -1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one | 64 mg | FC1=CC=CC=2C3=C(NC12)CCN(C3=O)CC=3N=CN(C3C)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3 | C35H29FN4O
reactant | sodium hydride | 6 mg | [H-].[Na+]
reactant | Methanesulphonyl chloride | 1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydride | 6 mg | [H-].[Na+]
reactant | methanesulphonyl chloride | 2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | water | 75 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 6-Fluoro-2,3,4,5-tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-5-(methylsulphonyl)-1H-pyrido[4,3-b]indol-1-one maleate | 24 mg | C(\C=C/C(=O)O)(=O)O.FC1=CC=CC=2C3=C(N(C12)S(=O)(=O)C)CCN(C3=O)CC=3N=CNC3C | InChI=1S/C17H17FN4O3S.C4H4O4/c1-10-13(20-9-19-10)8-21-7-6-14-15(17(21)23)11-4-3-5-12(18)16(11)22(14)26(2,24)25;5-3(6)1-2-4(7)8/h3-5,9H,6-8H2,1-2H3,(H,19,20);1-2H,(H,5,6)(H,7,8)/b;2-1-
